US08003649B2
Methyl 3-[1-[3-(trifluoromethyl)-[1,2,4]triazolo[4,3-b]pyridazin-6-yl]piperidin-4-yl]-1H-indole-5-carboxylate (3.28 g, 7.38 mmol) and 2M NaOH (10 mL, 7.38 mmol) in methanol (80 mL) were heated under reflux for 40 hours. The resulting solution was concentrated by evaporation, then acidified to pH 2-3 with 2M hydrochloric acid to give a colourless precipitate. The precipitate was collected by filtration, washed sequentially with water, acetonitrile and ether and dried under vacuum to afford 3-[1-[3-(trifluoromethyl)[1,2,4]triazolo[4,3-b]pyridazin-6-yl]piperidin-4-yl]-1H-indole-5-carboxylic acid (2.83 g, 89%) as a colourless solid.

reactant | Methyl 3-[1-[3-(trifluoromethyl)-[1,2,4]triazolo[4,3-b]pyridazin-6-yl]piperidin-4-yl]-1H-indole-5-carboxylate | 7.38 mmol, 3.28 g | FC(C1=NN=C2N1N=C(C=C2)N2CCC(CC2)C2=CNC1=CC=C(C=C21)C(=O)OC)(F)F | C21H19F3N6O2
reactant | NaOH | 7.38 mmol, 2M, 10 mL | [OH-].[Na+]
solvent | methanol | 80 mL | CO | CH4O
product | 3-[1-[3-(trifluoromethyl)[1,2,4]triazolo[4,3-b]pyridazin-6-yl]piperidin-4-yl]-1H-indole-5-carboxylic acid | 2.83 g, 89% | FC(C1=NN=C2N1N=C(C=C2)N2CCC(CC2)C2=CNC1=CC=C(C=C21)C(=O)O)(F)F | C20H17F3N6O2
